US09226923B2
Step 10 tert-butyl 7-(4-(6-amino-5-((R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy)pyridin-3-yl)-1H-pyrazol-1-yl)-2-azaspiro[3.5]nonane-2-carboxylate
The title compound was prepared as a off-white solid from (R)-3-(1-(2,6-dichloro-3-fluorophenyl)ethoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine and tert-butyl 7-(4-iodo-1H-pyrazol-1-yl)-2-azaspiro[3.5]nonane-2-carboxylate under the conditions described in Step 6 of Example 3.

reactant | (R)-3-(1-(2,6-dichloro-3-fluorophenyl)ethoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)N | C19H22BCl2FN2O3
reactant | tert-butyl 7-(4-iodo-1H-pyrazol-1-yl)-2-azaspiro[3.5]nonane-2-carboxylate | IC=1C=NN(C1)C1CCC2(CN(C2)C(=O)OC(C)(C)C)CC1 | C16H24IN3O2
product | tert-butyl 7-(4-(6-amino-5-((R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy)pyridin-3-yl)-1H-pyrazol-1-yl)-2-azaspiro[3.5]nonane-2-carboxylate | NC1=C(C=C(C=N1)C=1C=NN(C1)C1CCC2(CN(C2)C(=O)OC(C)(C)C)CC1)O[C@H](C)C1=C(C(=CC=C1Cl)F)Cl | C29H34Cl2FN5O3
